US06350749B1
To a solution of boron tribromide (0.96 g) in dichloromethane (30 ml) was added dropwise at −78° C. a solution of 7-(2-methoxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.33 g) in dichloromethane (1 ml), and the mixture was gradually warmed to room temperature and stirred at room temperature for 1.5 hours. To the mixture were added carefully ice and sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give colorless crystals of 7-(2-hydroxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.23 g).

reactant | boron tribromide | 0.96 g | B(Br)(Br)Br | BBr3
reactant | 7-(2-methoxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.33 g | COC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C17H17NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 7-(2-hydroxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.23 g | OC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C16H15NO2
